* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.019999999999997072
Fd1_1 0 s1 V1 0.9999999999998536
Gr1_1_1 0 s1 x1_a1 0 -121270080643.38113
Gr2_re_1_1 0 s1 x2_re_a1 0 364686928.26765
Gr2_im_1_1 0 s1 x2_im_a1 0 1191566.8419919882
Gr3_1_1 0 s1 x3_a1 0 -421956.5702861906
Gr4_1_1 0 s1 x4_a1 0 -112348.7020426409
Gr5_re_1_1 0 s1 x5_re_a1 0 6821.721286942916
Gr5_im_1_1 0 s1 x5_im_a1 0 1621.4245491978786
Gr6_re_1_1 0 s1 x6_re_a1 0 1652.7506299900874
Gr6_im_1_1 0 s1 x6_im_a1 0 262.4689244557383
Gr7_1_1 0 s1 x7_a1 0 396.75288785761796
Gr8_1_1 0 s1 x8_a1 0 388.2666396950044
Gr9_1_1 0 s1 x9_a1 0 489.52145697025736
Gr10_1_1 0 s1 x10_a1 0 29798.737443819795
Gr11_1_1 0 s1 x11_a1 0 1000.9705258215414
Gr12_1_1 0 s1 x12_a1 0 2.8245091257162764
Gr13_1_1 0 s1 x13_a1 0 0.0014082919875623133
Gr14_1_1 0 s1 x14_a1 0 0.04758773461129361
Gd1_2 0 s1 p2 0 2.9115864068900925e-15
Fd1_2 0 s1 V2 1.4557932034450464e-13
Gr1_1_2 0 s1 x1_a2 0 121270080643.38087
Gr2_re_1_2 0 s1 x2_re_a2 0 -364686928.2676468
Gr2_im_1_2 0 s1 x2_im_a2 0 -1191566.8420012156
Gr3_1_2 0 s1 x3_a2 0 421956.5702868048
Gr4_1_2 0 s1 x4_a2 0 112348.7020426131
Gr5_re_1_2 0 s1 x5_re_a2 0 -6821.721286937474
Gr5_im_1_2 0 s1 x5_im_a2 0 -1621.4245491819179
Gr6_re_1_2 0 s1 x6_re_a2 0 -1652.7506300138614
Gr6_im_1_2 0 s1 x6_im_a2 0 -262.4689244548804
Gr7_1_2 0 s1 x7_a2 0 -396.7528878581202
Gr8_1_2 0 s1 x8_a2 0 -388.2666396957131
Gr9_1_2 0 s1 x9_a2 0 -489.52145697028595
Gr10_1_2 0 s1 x10_a2 0 -29798.73744381983
Gr11_1_2 0 s1 x11_a2 0 -1000.9705258215465
Gr12_1_2 0 s1 x12_a2 0 -2.8245091257178636
Gr13_1_2 0 s1 x13_a2 0 -0.0014082919877753978
Gr14_1_2 0 s1 x14_a2 0 -0.04758773461134929
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3570272547578396e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.0223566081277967e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 44474039406.70358
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -44474039406.70358
Rp2_im_im_a1 0 x2_im_a1 1.0223566081277967e-10
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 3.482973934290036e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.7839320497408916e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 9.92307514669257e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 417773032.2560845
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -417773032.2560845
Rp5_im_im_a1 0 x5_im_a1 9.92307514669257e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 2.109909399819594e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 293920938.0128151
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -293920938.0128151
Rp6_im_im_a1 0 x6_im_a1 2.109909399819594e-08
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 6.717986567376766e-08
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 3.054737962262514e-07
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 2.1211590964077176e-06
Cx10_a1 x10_a1 0 1.0
Gx10_a1 0 x10_a1 p1 0 0.07071067811865475
Fx10_a1 0 x10_a1 V1 3.5355339059327378
Rp10_a1 0 x10_a1 8.986359790439714e-06
Cx11_a1 x11_a1 0 1.0
Gx11_a1 0 x11_a1 p1 0 0.07071067811865475
Fx11_a1 0 x11_a1 V1 3.5355339059327378
Rp11_a1 0 x11_a1 1.3521960261944311e-05
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 9.146895457406934e-05
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 0.004013000984998118
Cx14_a1 x14_a1 0 1.0
Gx14_a1 0 x14_a1 p1 0 0.07071067811865475
Fx14_a1 0 x14_a1 V1 3.5355339059327378
Rp14_a1 0 x14_a1 0.0006279184190209112
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.9115864068900925e-15
Fd2_1 0 s2 V1 1.4557932034450464e-13
Gr1_2_1 0 s2 x1_a1 0 121270080643.38087
Gr2_re_2_1 0 s2 x2_re_a1 0 -364686928.2676468
Gr2_im_2_1 0 s2 x2_im_a1 0 -1191566.8420012156
Gr3_2_1 0 s2 x3_a1 0 421956.5702868048
Gr4_2_1 0 s2 x4_a1 0 112348.7020426131
Gr5_re_2_1 0 s2 x5_re_a1 0 -6821.721286937474
Gr5_im_2_1 0 s2 x5_im_a1 0 -1621.4245491819179
Gr6_re_2_1 0 s2 x6_re_a1 0 -1652.7506300138614
Gr6_im_2_1 0 s2 x6_im_a1 0 -262.4689244548804
Gr7_2_1 0 s2 x7_a1 0 -396.7528878581202
Gr8_2_1 0 s2 x8_a1 0 -388.2666396957131
Gr9_2_1 0 s2 x9_a1 0 -489.52145697028595
Gr10_2_1 0 s2 x10_a1 0 -29798.73744381983
Gr11_2_1 0 s2 x11_a1 0 -1000.9705258215465
Gr12_2_1 0 s2 x12_a1 0 -2.8245091257178636
Gr13_2_1 0 s2 x13_a1 0 -0.0014082919877753978
Gr14_2_1 0 s2 x14_a1 0 -0.04758773461134929
Gd2_2 0 s2 p2 0 0.019999999999997072
Fd2_2 0 s2 V2 0.9999999999998536
Gr1_2_2 0 s2 x1_a2 0 -121270080643.38113
Gr2_re_2_2 0 s2 x2_re_a2 0 364686928.26765
Gr2_im_2_2 0 s2 x2_im_a2 0 1191566.8419919882
Gr3_2_2 0 s2 x3_a2 0 -421956.5702861906
Gr4_2_2 0 s2 x4_a2 0 -112348.7020426409
Gr5_re_2_2 0 s2 x5_re_a2 0 6821.721286942916
Gr5_im_2_2 0 s2 x5_im_a2 0 1621.4245491978786
Gr6_re_2_2 0 s2 x6_re_a2 0 1652.7506299900874
Gr6_im_2_2 0 s2 x6_im_a2 0 262.4689244557383
Gr7_2_2 0 s2 x7_a2 0 396.75288785761796
Gr8_2_2 0 s2 x8_a2 0 388.2666396950044
Gr9_2_2 0 s2 x9_a2 0 489.52145697025736
Gr10_2_2 0 s2 x10_a2 0 29798.737443819795
Gr11_2_2 0 s2 x11_a2 0 1000.9705258215414
Gr12_2_2 0 s2 x12_a2 0 2.8245091257162764
Gr13_2_2 0 s2 x13_a2 0 0.0014082919875623133
Gr14_2_2 0 s2 x14_a2 0 0.04758773461129361
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3570272547578396e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.0223566081277967e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 44474039406.70358
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -44474039406.70358
Rp2_im_im_a2 0 x2_im_a2 1.0223566081277967e-10
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 3.482973934290036e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.7839320497408916e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 9.92307514669257e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 417773032.2560845
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -417773032.2560845
Rp5_im_im_a2 0 x5_im_a2 9.92307514669257e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 2.109909399819594e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 293920938.0128151
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -293920938.0128151
Rp6_im_im_a2 0 x6_im_a2 2.109909399819594e-08
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 6.717986567376766e-08
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 3.054737962262514e-07
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 2.1211590964077176e-06
Cx10_a2 x10_a2 0 1.0
Gx10_a2 0 x10_a2 p2 0 0.07071067811865475
Fx10_a2 0 x10_a2 V2 3.5355339059327378
Rp10_a2 0 x10_a2 8.986359790439714e-06
Cx11_a2 x11_a2 0 1.0
Gx11_a2 0 x11_a2 p2 0 0.07071067811865475
Fx11_a2 0 x11_a2 V2 3.5355339059327378
Rp11_a2 0 x11_a2 1.3521960261944311e-05
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 9.146895457406934e-05
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 0.004013000984998118
Cx14_a2 x14_a2 0 1.0
Gx14_a2 0 x14_a2 p2 0 0.07071067811865475
Fx14_a2 0 x14_a2 V2 3.5355339059327378
Rp14_a2 0 x14_a2 0.0006279184190209112
.ENDS s_equivalent
